US06380388B1
A 100 mL, round bottom flask equipped with a magnetic stirrer and a nitrogen inlet is added N-benzyloxycarbonyl-L-valine (3.6 g), dichloromethane (25 mL), and 2,2-dimethoxyethanol (1.85 g) and the mixture is cooled using an ice bath (0-5° C.). DMAP (0.089 g) is added to the reaction mixture followed by the addition of DCC (3.6 g) over a period of 2 minutes. The suspended solid is filtered, the filter cake is washed with 3×10 mL of heptanes, and the filtrate is concentrated. The crude product is purified by silica gel chromatography (4:1, heptanes/ethyl acetate eluent) to provide 5.3 g of 2,2-dimethoxyethyl N-benzyloxycarbonyl-L-valinate.

reactant | N-benzyloxycarbonyl-L-valine | 3.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | 2,2-dimethoxyethanol | 1.85 g | COC(CO)OC | C4H10O3
reactant | DCC | 3.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.089 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2,2-dimethoxyethyl N-benzyloxycarbonyl-L-valinate | 5.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(OC)OC | C17H25NO6
